US05072029
A mixture of 4.97 g of crosslinked poly(4-vinylpyridine hydrochloride) (Fluka Chemical Corp., catalog number 82803, 6 meq/g), 192 g (207 mL, 2.74 mol) of 2,3-dihydrofuran, 118 g (116 mL, 1.36 mol) of methacrylic acid, and 1 g of phenothiazine was heated at 2° C. per minute. When the temperature reached 45° C., an exothermic reaction caused the temperature to rise to 82° C. The catalyst was removed by filtration. NMR analysis of the filtrate showed no residual methacrylic acid. After addition of sodium carbonate and calcium hydride, excess dihydrofuran was removed with a rotary evaporator, and distillation gave 151.7 g of tetrahydrofuranyl methacrylate, b.p. 43°-44° C. (0.75 mm).

reactant | 2,3-dihydrofuran | 2.74 mol, 207 mL, 192 g | O1CCC=C1 | C4H6O
reactant | methacrylic acid | 1.36 mol, 116 mL, 118 g | C(C(=C)C)(=O)O | C4H6O2
catalyst | poly(4-vinylpyridine hydrochloride) | 4.97 g | C=CC1=CC=NC=C1.Cl
catalyst | phenothiazine | 1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | tetrahydrofuranyl methacrylate | 151.7 g | C(C(=C)C)(=O)OC1OCCC1 | C8H12O3
